US07329764B2
To a flask was added 4-iodo-1H-imidazole (500 mg, 3.402 mmol) in 100 mL of THF followed by the addition of di-tert-butyl dicarbonate (1.485 g, 6.804 mmol) and 5 mL of saturated NaHCO3 solution. The reaction mixture was stirred at room temperature for 18 h and then diluted with EtOAc, and washed with H2O and brine. The organic phase was dried over anhydrous MgSO4, filtered and concentrated. The residue was purified by silica gel chromatography eluting with 0-10% EtOAc/hexane. The product fractions were collected and concentrated to afford 388 mg (46.2%) of 4-iodo-imidazole-1-carboxylic acid tert-butyl ester as a white solid.

reactant | 4-iodo-1H-imidazole | 3.402 mmol, 500 mg | IC=1N=CNC1 | C3H3IN2
reactant | di-tert-butyl dicarbonate | 6.804 mmol, 1.485 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | NaHCO3 | 5 mL | C(=O)(O)[O-].[Na+]
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 4-iodo-imidazole-1-carboxylic acid tert-butyl ester | 388 mg, 46.2% | C(C)(C)(C)OC(=O)N1C=NC(=C1)I | C8H11IN2O2
